US08466282B2
Tert-butyl (3S,5R)-3-{[ethoxy(oxo)acetyl](2-methylpropyl)amino}-5-(morpholin-4-ylcarbonyl)piperidine-1-carboxylate
To a solution of tert-butyl (3S,5R)-3-[(2-methylpropyl)amino]-5-(morpholin-4-ylcarbonyl)piperidine-1-carboxylate (9.24 g) and diisopropylethylamine (10.5 ml) in DMA (100 ml) was added dropwise ethyl chloroglyoxylate (3.4 ml) at 0° C. The reaction mixture was stirred at room temperature for 15 hr, and the reaction mixture was concentrated. An aqueous sodium bicarbonate solution was added to the residue, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure. The residue was subjected to silica gel column chromatography, and a fraction eluted with ethyl acetate was concentrated under reduced pressure to give the object product (10.3 g).

reactant | tert-butyl (3S,5R)-3-[(2-methylpropyl)amino]-5-(morpholin-4-ylcarbonyl)piperidine-1-carboxylate | 9.24 g | CC(CN[C@@H]1CN(C[C@@H](C1)C(=O)N1CCOCC1)C(=O)OC(C)(C)C)C | C19H35N3O4
reactant | diisopropylethylamine | 10.5 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | ethyl chloroglyoxylate | 3.4 ml | ClC(C(=O)OCC)=O | C4H5ClO3
solvent | DMA | 100 ml | CC(=O)N(C)C | C4H9NO
product | Tert-butyl (3S,5R)-3-{[ethoxy(oxo)acetyl](2-methylpropyl)amino}-5-(morpholin-4-ylcarbonyl)piperidine-1-carboxylate | 10.3 g | C(C)OC(C(=O)N([C@@H]1CN(C[C@@H](C1)C(=O)N1CCOCC1)C(=O)OC(C)(C)C)CC(C)C)=O | C23H39N3O7
